US07125896B2
b) 2-[(Aminocarbonyl)amino]-5-[4-((4-methylpiperazin-1-yl)methyl)phenyl)-thiophene-3-carboxamide
2-[(Aminocarbonyl)amino]-5-(4-formylphenyl)-3-thiophenecarboxamide (100 mg) was stirred in a mixture of 1,2-dimethoxyethane (10 ml) and N,N-dimethylacetamide (5 ml). 1-Methyl piperazine (0.16 g) was added, followed by triethyl orthoformate (5 ml) and acetic acid (0.5 ml). The reaction was stirred at 80° C. for 20 minutes, and then polymer-supported cyanoborohydride (0.45 g) was added. The reaction was stirred at 80° C. for a further 2 h, and then polymer-supported isocyanate (0.5 g) was added. The resins were removed by filtration, and the filtrate was then passed through a 5 g SCX column, washing with methanol (25 ml). The product was eluted using 1M methanolic ammonia (45 ml), and this solution was then evaporated to dryness under reduced pressure and the residue purified by chromatography on silica, eluting with dichloromethane/methanol (9:1), to give the product as an off-white solid (16 mg).

reactant | 2-[(Aminocarbonyl)amino]-5-(4-formylphenyl)-3-thiophenecarboxamide | 100 mg | NC(=O)NC=1SC(=CC1C(=O)N)C1=CC=C(C=C1)C=O | C13H11N3O3S
reactant | 1-Methyl piperazine | 0.16 g | CN1CCNCC1 | C5H12N2
reactant | triethyl orthoformate | 5 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | cyanoborohydride | 0.45 g | C(#N)[BH3-]
reactant | isocyanate | 0.5 g | [N-]=C=O
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
solvent | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 2-[(Aminocarbonyl)amino]-5-[4-((4-methylpiperazin-1-yl)methyl)phenyl)-thiophene-3-carboxamide | 16 mg | NC(=O)NC=1SC(=CC1C(=O)N)C1=CC=C(C=C1)CN1CCN(CC1)C | C18H23N5O2S
